US06875781B2
4-(5-Chloro-2-ethoxy-phenyl)-N-(4-chloro-phenyl)-pyridine-2,6-diamine
Following the method described in Example 8, 4-(5-chloro-2-ethoxy-phenyl)-pyridine-2,6-diamine trifluoroacetic acid salt and 4-chloro-phenylboronic acid provided the title compound (30% yield). 1H NMR (acetone-d6) δ1.35 (t, 3H, J=7.0 Hz, CH3), 4.08 (q, 2H, J=7.0 Hz, CH2), 5.32 (bs, 2H, NH2), 6.21 (d, 1H, J=1H, J=1.2 Hz, Ar), 6.32 (t, 1H, J=1.1 Hz, Ar), 7.09 (d, 2H, J=8.6 Hz, Ar), 7.23 (d, 2H, J=8.9 Hz, Ar), 7.31-7.78 (m, 2H, Ar), 8.04 (s, 1H, NH).

reactant | 4-(5-chloro-2-ethoxy-phenyl)-pyridine-2,6-diamine trifluoroacetic acid salt | FC(C(=O)O)(F)F.ClC=1C=CC(=C(C1)C1=CC(=NC(=C1)N)N)OCC
reactant | 4-chloro-phenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 4-(5-Chloro-2-ethoxy-phenyl)-N-(4-chloro-phenyl)-pyridine-2,6-diamine | 30% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=C1)N)NC1=CC=C(C=C1)Cl)OCC | C19H17Cl2N3O
